*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:19:00 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFSHQX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFSHQX4 SN Q CK D
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET SN 7.2638e-16
*|P (SN X 0 1.9000 0.6650)
*|I (Mmn50:g Mmn50 g X 0 1.5325 0.5025)
*|I (Mmn30:g Mmn30 g X 0 3.0725 0.4275)
*|I (Mmp50:g Mmp50 g X 0 1.5325 1.3100)
*|I (Mmp30:g Mmp30 g X 0 3.1875 1.0550)
*|S (SN:2 1.5050 0.8950)
*|S (SN:5 3.0450 0.6400)
C1 Mmp30:g VSS 6.34609e-17
C2 Mmp50:g VSS 4.93358e-17
C3 Mmn30:g VSS 4.65441e-17
C4 Mmn50:g VSS 4.37341e-17
C5 SN:2 VSS 1.41237e-16
C6 SN:5 VSS 1.99795e-16
C7 SN VSS 1.82273e-16
Rl1 SN:2 Mmn50:g 98.768700 $W=0.039
Rl2 SN:5 Mmn30:g 29.537926 $W=0.039
Rl3 Mmp50:g SN:2 87.230232 $W=0.039
Rl4 Mmp30:g SN:5 113.718956 $W=0.039
Rk5 SN:5 SN 46.175034 $W=0.08
Rk6 SN SN:2 45.463688 $W=0.08
*
*|NET Q 2.69638e-16
*|P (Q X 0 0.3000 0.6650)
C8 Q VSS 2.69638e-16
*
*|NET CK 1.85599e-16
*|P (CK X 0 5.3000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 5.2775 0.5875)
*|I (Mmp20:g Mmp20 g X 0 5.2775 1.0075)
*|S (CK:2 5.3150 0.7600)
C9 Mmp20:g VSS 2.44665e-17
C10 Mmn20:g VSS 1.76411e-17
C11 CK:2 VSS 1.03796e-16
C12 CK VSS 3.9696e-17
Rl7 CK:2 Mmn20:g 24.232828 $W=0.039
Rl8 Mmp20:g CK:2 39.617443 $W=0.039
Rk9 CK:2 CK 45.052402 $W=0.1
*
*|NET D 3.0763e-16
*|P (D X 0 4.5000 0.8550)
*|I (Mmn25:g Mmn25 g X 0 4.3625 0.4675)
*|I (Mmp25:g Mmp25 g X 0 4.3975 1.1200)
*|S (D:2 4.4250 0.7750)
C13 Mmp25:g VSS 5.65405e-17
C14 Mmn25:g VSS 6.29423e-17
C15 D:2 VSS 1.00872e-16
C16 D VSS 8.72754e-17
Rl10 D:2 Mmn25:g 67.124222 $W=0.039
Rl11 Mmp25:g D:2 60.307159 $W=0.039
Rk12 D D:2 45.078938 $W=0.1
*
*|NET qbint 6.96938e-16
*|I (Mmn55:g Mmn55 g X 0 0.2325 0.5300)
*|I (Mmn45@1:d Mmn45@1 d X 0 1.1550 0.5025)
*|I (Mmn51:g Mmn51 g X 0 1.7375 0.5025)
*|I (Mmp45:d Mmp45 d X 0 1.1650 1.3100)
*|I (Mmp51:g Mmp51 g X 0 1.7375 1.3100)
*|S (qbint:8 0.9050 0.7600)
*|S (qbint:15 1.7000 0.7050)
*|S (qbint:17 1.1550 0.7300)
C17 Mmp51:g VSS 6.07248e-17
C18 Mmp45:d VSS 8.3988e-17
C19 Mmn51:g VSS 2.64499e-17
C20 Mmn45@1:d VSS 2.60392e-17
C21 Mmn55:g VSS 2.70554e-16
C22 qbint:17 VSS 5.50164e-17
C23 qbint:8 VSS 6.26654e-17
C24 qbint:15 VSS 1.11501e-16
Rl13 Mmn55:g qbint:8 49.885075 $W=0.094
Rl14 qbint:15 Mmn51:g 24.232828 $W=0.039
Rl15 Mmp51:g qbint:15 158.848221 $W=0.039
Rk16 qbint:17 qbint:15 45.385685 $W=0.09
Rk17 qbint:17 qbint:8 0.173332 $W=0.0965
Rk18 qbint:17 Mmn45@1:d 75.127838 $W=0.08
Rk19 qbint:17 Mmp45:d 31.409708 $W=0.08
*
*|NET n35 6.59218e-16
*|I (Mmn45@1:g Mmn45@1 g X 0 1.0525 0.5025)
*|I (Mmn52:d Mmn52 d X 0 2.2650 0.5025)
*|I (Mmp52:d Mmp52 d X 0 2.5225 1.1200)
*|S (n35:6 1.3150 1.0250)
*|S (n35:9 2.0700 1.0550)
C25 Mmp52:d VSS 9.33504e-17
C26 Mmn52:d VSS 9.63784e-17
C27 Mmn45@1:g VSS 2.18693e-16
C28 n35:9 VSS 1.49608e-16
C29 n35:6 VSS 1.01189e-16
Rl20 Mmn45@1:g n35:6 48.322868 $W=0.094
Rk21 n35:9 n35:6 0.589338 $W=0.08
Rk22 n35:9 Mmn52:d 75.460869 $W=0.08
Rk23 n35:9 Mmp52:d 62.399296 $W=0.08
*
*|NET n42 0
*|I (Mmn50:d Mmn50 d X 0 1.6350 0.5025)
*|I (Mmn51:s Mmn51 s X 0 1.6350 0.5025)
Rmw24 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET n40 5.57845e-18
*|I (Mmn51:d Mmn51 d X 0 1.9325 0.5025)
*|I (Mmn52:s Mmn52 s X 0 1.9325 0.5025)
C30 Mmn51:d VSS 5.57845e-18
Rmw25 Mmn52:s Mmn51:d 0.001000 $W=1
*
*|NET CKb 1.39265e-15
*|I (Mmn52:g Mmn52 g X 0 2.1275 0.5025)
*|I (Mmn26:g Mmn26 g X 0 4.2575 0.4675)
*|I (Mmn21:g Mmn21 g X 0 4.6525 0.4975)
*|I (Mmn20:d Mmn20 d X 0 5.1750 0.5875)
*|I (Mmp40:g Mmp40 g X 0 2.6425 1.1200)
*|I (Mmp36:g Mmp36 g X 0 3.8025 1.0550)
*|I (Mmp21:g Mmp21 g X 0 4.6525 1.1675)
*|I (Mmp20:d Mmp20 d X 0 5.1850 1.0075)
*|S (CKb:2 2.2600 0.7300)
*|S (CKb:3 2.6950 0.8650)
*|S (CKb:5 3.9350 0.8000)
*|S (CKb:8 4.2200 0.6700)
*|S (CKb:10 4.6250 0.6850)
*|S (CKb:14 5.1550 0.5750)
*|S (CKb:15 4.6250 0.5850)
*|S (CKb:16 4.0950 0.8000)
C31 Mmp20:d VSS 6.42658e-17
C32 Mmp21:g VSS 4.73773e-17
C33 Mmp36:g VSS 8.27754e-17
C34 Mmp40:g VSS 4.18074e-17
C35 Mmn20:d VSS 1.28202e-16
C36 Mmn21:g VSS 2.53752e-17
C37 Mmn26:g VSS 7.42952e-17
C38 Mmn52:g VSS 3.13224e-17
C39 CKb:16 VSS 1.89662e-16
C40 CKb:15 VSS 8.97749e-17
C41 CKb:2 VSS 1.05308e-16
C42 CKb:3 VSS 2.56647e-16
C43 CKb:5 VSS 6.61838e-17
C44 CKb:8 VSS 1.23827e-16
C45 CKb:10 VSS 6.58321e-17
Rl26 Mmn52:g CKb:2 111.820747 $W=0.039
Rl27 Mmn26:g CKb:8 69.232826 $W=0.039
Rl28 CKb:10 Mmn21:g 31.461004 $W=0.039
Rl29 CKb:3 Mmp40:g 75.348099 $W=0.039
Rl30 CKb:5 Mmp36:g 91.818375 $W=0.039
Rl31 Mmp21:g CKb:10 131.461014 $W=0.039
Rk32 CKb:3 CKb:2 0.386681 $W=0.08
Rk33 CKb:15 CKb:10 45.052822 $W=0.125
Rk34 CKb:15 CKb:8 0.287977 $W=0.08
Rk35 CKb:14 CKb:15 0.662884 $W=0.08
Rk36 CKb:8 CKb:16 0.101200 $W=0.1
Rk37 CKb:16 CKb:5 0.096096 $W=0.0815
Rk38 CKb:16 CKb:3 1.635733 $W=0.08
Rk39 Mmn20:d CKb:14 75.000000 $W=0.08
Rk40 Mmp20:d CKb:14 62.399345 $W=0.08
*
*|NET mout 5.61978e-16
*|I (Mmn40:s Mmn40 s X 0 2.4950 0.5025)
*|I (Mmn31:d Mmn31 d X 0 3.2700 0.4275)
*|I (Mmn36:g Mmn36 g X 0 3.8775 0.4675)
*|I (Mmp40:s Mmp40 s X 0 2.8400 1.0250)
*|I (Mmp30:d Mmp30 d X 0 3.2900 1.0550)
*|I (Mmp35:g Mmp35 g X 0 3.6975 1.0550)
*|S (mout:2 3.6975 0.6675)
*|S (mout:3 3.5550 0.6700)
*|S (mout:6 3.2050 0.8300)
*|S (mout:7 2.8850 0.8300)
*|S (mout:9 3.2800 0.6000)
C46 Mmp35:g VSS 8.77321e-17
C47 Mmp30:d VSS 3.56163e-17
C48 Mmp40:s VSS 3.96732e-17
C49 Mmn36:g VSS 5.05697e-17
C50 Mmn31:d VSS 1.93362e-17
C51 Mmn40:s VSS 7.85819e-17
C52 mout:9 VSS 4.32789e-17
C53 mout:7 VSS 7.15411e-17
C54 mout:6 VSS 3.45324e-17
C55 mout:2 VSS 2.58552e-17
C56 mout:3 VSS 7.52611e-17
Rl41 mout:2 mout:3 82.674988 $W=0.039
Rl42 Mmn36:g mout:2 96.131737 $W=0.039
Rl43 mout:2 Mmp35:g 82.373802 $W=0.039
Rk44 mout:6 mout:7 0.187539 $W=0.09
Rk45 mout:9 mout:3 0.225978 $W=0.09
Rk46 mout:6 mout:9 0.235381 $W=0.09
Rk47 mout:7 Mmn40:s 75.451683 $W=0.08
Rk48 mout:9 Mmn31:d 75.073402 $W=0.095
Rk49 mout:7 Mmp40:s 62.139202 $W=0.09
Rk50 Mmp30:d mout:6 62.178085 $W=0.08
*
*|NET CKbb 9.21092e-16
*|I (Mmn40:g Mmn40 g X 0 2.4025 0.5025)
*|I (Mmn35:g Mmn35 g X 0 4.0525 0.4675)
*|I (Mmn21:d Mmn21 d X 0 4.8400 0.4975)
*|I (Mmp52:g Mmp52 g X 0 2.4025 1.1200)
*|I (Mmp26:g Mmp26 g X 0 4.2175 1.1200)
*|I (Mmp21:d Mmp21 d X 0 4.7450 1.1675)
*|S (CKbb:3 2.4300 1.3850)
*|S (CKbb:5 4.2550 0.8650)
*|S (CKbb:7 4.2550 1.0250)
*|S (CKbb:8 4.8350 1.0250)
C57 Mmp21:d VSS 2.31362e-17
C58 Mmp26:g VSS 3.72814e-17
C59 Mmp52:g VSS 4.08565e-17
C60 Mmn21:d VSS 6.70204e-17
C61 Mmn35:g VSS 7.56819e-17
C62 Mmn40:g VSS 5.13159e-17
C63 CKbb:8 VSS 1.00178e-16
C64 CKbb:7 VSS 2.08307e-16
C65 CKbb:3 VSS 2.15821e-16
C66 CKbb:5 VSS 1.01494e-16
Rl51 CKbb:5 Mmn35:g 151.110291 $W=0.039
Rl52 Mmp52:g CKbb:3 74.537926 $W=0.039
Rl53 Mmp52:g Mmn40:g 138.461533 $W=0.039
Rl54 Mmp26:g CKbb:5 24.232828 $W=0.039
Rk55 CKbb:5 CKbb:7 45.130352 $W=0.08
Rk56 CKbb:7 CKbb:3 1.623744 $W=0.08
Rk57 CKbb:7 CKbb:8 0.357577 $W=0.08
Rk58 CKbb:8 Mmn21:d 75.358864 $W=0.09
Rk59 CKbb:8 Mmp21:d 62.029682 $W=0.22
*
*|NET n25 0
*|I (Mmn30:d Mmn30 d X 0 3.1250 0.4275)
*|I (Mmn31:s Mmn31 s X 0 3.1250 0.4275)
Rmw60 Mmn31:s Mmn30:d 0.001000 $W=1
*
*|NET n20 4.77453e-16
*|I (Mmn31:g Mmn31 g X 0 3.1775 0.4275)
*|I (Mmn35:d Mmn35 d X 0 4.1550 0.4675)
*|I (Mmp31:g Mmp31 g X 0 3.3925 1.0550)
*|I (Mmp36:d Mmp36 d X 0 4.1450 1.1200)
*|S (n20:2 3.3650 0.7900)
*|S (n20:5 3.7450 0.8300)
C67 Mmp36:d VSS 6.02003e-17
C68 Mmp31:g VSS 4.85595e-17
C69 Mmn35:d VSS 7.90551e-17
C70 Mmn31:g VSS 6.27944e-17
C71 n20:5 VSS 1.03872e-16
C72 n20:2 VSS 1.22972e-16
Rl61 n20:2 Mmn31:g 131.433777 $W=0.039
Rl62 Mmp31:g n20:2 30.769232 $W=0.039
Rk63 n20:5 n20:2 45.246780 $W=0.09
Rk64 Mmn35:d n20:5 75.575813 $W=0.09
Rk65 n20:5 Mmp36:d 62.260746 $W=0.0815
*
*|NET n30 4.75291e-18
*|I (Mmn36:d Mmn36 d X 0 3.9650 0.4675)
*|I (Mmn35:s Mmn35 s X 0 3.9650 0.4675)
C73 Mmn36:d VSS 4.75291e-18
Rmw66 Mmn35:s Mmn36:d 0.001000 $W=1
*
*|NET n21 1.2771e-18
*|I (Mmn26:s Mmn26 s X 0 4.3100 0.4675)
*|I (Mmn25:d Mmn25 d X 0 4.3100 0.4675)
C74 Mmn26:s VSS 1.2771e-18
Rmw67 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET n41 1.88417e-16
*|I (Mmp50:d Mmp50 d X 0 1.6350 1.3100)
*|I (Mmp52:s Mmp52 s X 0 2.3100 1.1200)
C75 Mmp52:s VSS 8.21586e-17
C76 Mmp50:d VSS 1.06258e-16
Rk68 Mmp52:s Mmp50:d 93.569672 $W=0.08
*
*|NET n31 1.65053e-18
*|I (Mmp35:d Mmp35 d X 0 3.7500 1.0550)
*|I (Mmp36:s Mmp36 s X 0 3.7500 1.0550)
C77 Mmp35:d VSS 1.65053e-18
Rmw69 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET n22 3.18329e-18
*|I (Mmp26:s Mmp26 s X 0 4.3075 1.1200)
*|I (Mmp25:d Mmp25 d X 0 4.3075 1.1200)
C78 Mmp26:s VSS 3.18329e-18
Rmw70 Mmp25:d Mmp26:s 0.001000 $W=1
*
*Instance Section
*
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.04715P	PD=0.73U	PS=0.87U
+ fw=2.05e-07 sa=1.44e-06 sb=1.01e-06 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.07073P	AS=0.0328P	PD=1.1U	PS=0.73U
+ fw=2.05e-07 sa=1.645e-06 sb=8.05e-07 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn52	Mmn52:d	Mmn52:g	Mmn52:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04715P	AS=0.07073P	PD=0.87U	PS=1.1U
+ fw=2.05e-07 sa=2e-06 sb=4.15e-07 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn40	Mmn52:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04715P	AS=0.0287P	PD=0.87U	PS=0.69U
+ fw=2.05e-07 sa=2e-06 sb=1.4e-07 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.0287P	PD=0.53U	PS=0.69U
+ fw=2.05e-07 sa=1.4e-07 sb=2.45e-07 sca=9.70996 scb=0.0085072 scc=0.000244399
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.0123P	PD=0.69U	PS=0.53U
+ fw=2.05e-07 sa=2.45e-07 sb=1.4e-07 sca=9.70996 scb=0.0085072 scc=0.000244399
Mmn36	Mmn36:d	Mmn36:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.02665P	AS=0.0287P	PD=0.67U	PS=0.69U
+ fw=2.05e-07 sa=1.4e-07 sb=9.64512e-07 sca=11.535 scb=0.0112489 scc=0.00047927
Mmn35	Mmn35:d	Mmn35:g	Mmn35:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.02665P	PD=0.73U	PS=0.67U
+ fw=2.05e-07 sa=3.15e-07 sb=7.89512e-07 sca=11.535 scb=0.0112489 scc=0.00047927
Mmn26	Mmn35:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0123P	PD=0.73U	PS=0.53U
+ fw=2.05e-07 sa=5.2e-07 sb=5.84512e-07 sca=11.535 scb=0.0112489 scc=0.00047927
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0123P	AS=0.04392P	PD=0.53U	PS=0.9U
+ fw=2.05e-07 sa=6.25e-07 sb=4.79512e-07 sca=11.535 scb=0.0112489 scc=0.00047927
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04785P	AS=0.04392P	PD=0.95U	PS=0.9U
+ fw=1.45e-07 sa=9.15e-07 sb=3.3e-07 sca=12.9138 scb=0.0133404 scc=0.000640143
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.03698P	PD=0.61U	PS=0.8U
+ fw=1.45e-07 sa=1.6e-07 sb=2.55e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Q	Mmn55:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.03948P	PD=0.84U	PS=0.83U	M=4
+ fw=2.6e-07 sa=1.4e-07 sb=1.72817e-06 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn45@1	Mmn45@1:d	Mmn45@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.04273P	PD=0.73U	PS=0.855U	M=2
+ fw=2.05e-07 sa=9.6e-07 sb=1.49e-06 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0651P	PD=0.94U	PS=1.04U
+ fw=3.1e-07 sa=1.44e-06 sb=3.45e-07 sca=10.6008 scb=0.00822388 scc=0.000121216
Mmp51	Mmp50:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0434P	PD=0.94U	PS=0.9U
+ fw=3.1e-07 sa=1.645e-06 sb=1.4e-07 sca=10.6008 scb=0.00822388 scc=0.000121216
Mmp52	Mmp52:d	Mmp52:g	Mmp52:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06045P	AS=0.0434P	PD=1.01U	PS=0.9U
+ fw=3.1e-07 sa=1.4e-07 sb=3.98065e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp40	Mmp52:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06045P	AS=0.049P	PD=1.01U	PS=1.12U
+ fw=3.1e-07 sa=3.8e-07 sb=1.58065e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp30	Mmp30:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0604P	PD=0.94U	PS=1.8U
+ fw=3.1e-07 sa=1e-07 sb=1.32798e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp31	Mmp30:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.11P	PD=0.94U	PS=2.12U
+ fw=3.1e-07 sa=3.05e-07 sb=1.12298e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0186P	AS=0.11P	PD=0.74U	PS=2.12U
+ fw=3.1e-07 sa=6.1e-07 sb=8.17984e-07 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.10365P	AS=0.0186P	PD=1.49U	PS=0.74U
+ fw=3.1e-07 sa=7.15e-07 sb=7.12984e-07 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp26	Mmp36:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.10365P	AS=0.04185P	PD=1.49U	PS=0.89U
+ fw=3.1e-07 sa=9.14032e-07 sb=4.84597e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.04185P	AS=0.05465P	PD=0.89U	PS=1.04U
+ fw=3.1e-07 sa=1.09403e-06 sb=3.04597e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05465P	PD=0.71U	PS=1.04U
+ fw=2.15e-07 sa=1.2536e-06 sb=1.4e-07 sca=13.4401 scb=0.0126994 scc=0.000544006
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0301P	PD=0.71U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.4e-07 sca=51.6924 scb=0.0366725 scc=0.00607082
Mmp55@1	Q	Mmn55:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.05925P	PD=1.1U	PS=1.09U	M=4
+ fw=3.9e-07 sa=1.4e-07 sb=1.45423e-06 sca=22.4235 scb=0.0255651 scc=0.00113526
Mmp45	Mmp45:d	Mmn45@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0558P	AS=0.06135P	PD=0.98U	PS=1.07U	M=2
+ fw=3.1e-07 sa=9.6e-07 sb=8.25e-07 sca=10.6008 scb=0.00822388 scc=0.000121216
.ENDS
.END
